US07964618B2
Cyclopentanethiol (7.84 mL, 73.22 mmol) was added in one portion to 2,6-dichloro-N-cyclohexylnicotinamide (20 g, 73.22 mmol) and sodium carbonate (23.28 g, 219.65 mmol) in DMF (150 mL). The resulting suspension was stirred at 60° C. for 3 hours. The mixture was cooled, evaporated, DCM (250 mL) was added and the mixture was washed with water (3×100 mL) and brine (50 mL), dried (MgSO4), filtered and evaporated to a sticky pale yellow solid. This was triturated with 4:1 hexane:ethyl acetate, filtered and dried to give 6-chloro-N-cyclohexyl-2-(cyclopentylthio)nicotinamide (13.8 g, 55.6%) as a white solid.

reactant | Cyclopentanethiol | 73.22 mmol, 7.84 mL | C1(CCCC1)S | C5H10S
reactant | 2,6-dichloro-N-cyclohexylnicotinamide | 73.22 mmol, 20 g | ClC1=C(C(=O)NC2CCCCC2)C=CC(=N1)Cl | C12H14Cl2N2O
reactant | sodium carbonate | 219.65 mmol, 23.28 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 6-chloro-N-cyclohexyl-2-(cyclopentylthio)nicotinamide | 13.8 g, 55.6% | ClC1=NC(=C(C(=O)NC2CCCCC2)C=C1)SC1CCCC1 | C17H23ClN2OS
